US08492378B2
1-[4-(methylsulfinyl)phenyl]-6-(1,3,4-oxadiazol-2-yl)-1H-benzimidazole
A solution of acetic acid (57 μl, 1.00 mmol) and N,N′-carbonyldiimidazole (195 mg, 1.20 mmol) in tetrahydrofuran (20 mL) was stirred at room temperature for 1 hr. To this reaction mixture were added 1-[4-(methylsulfinyl)phenyl]-1H-benzimidazole-6-carbohydrazide (314 mg, 1.00 mmol) and N,N-dimethylformamide (5 mL), and the resulting mixture was stirred overnight. To this reaction mixture was added a solution of p-toluenesulfonyl chloride (381 mg, 2.00 mmol) in pyridine (5 mL), and the resulting mixture was stirred at 80° C. for 24 hr. After cooling, the reaction mixture was diluted with chloroform, washed with 1M hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=4/1-0/1) and recrystallized from hexane/ethyl acetate to give the title compound (12 mg, yield 3.8%) as colorless crystals.

reactant | acetic acid | 1.00 mmol, 57 μl | C(C)(=O)O | C2H4O2
reactant | 1-[4-(methylsulfinyl)phenyl]-1H-benzimidazole-6-carbohydrazide | 1.00 mmol, 314 mg | CS(=O)C1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C(=O)NN | C15H14N4O2S
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | p-toluenesulfonyl chloride | 2.00 mmol, 381 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-(methylsulfinyl)phenyl]-6-(1,3,4-oxadiazol-2-yl)-1H-benzimidazole | 12 mg, yield 3.8% | CS(=O)C1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C=2OC=NN2 | C16H12N4O2S
